US08119627B2
A solution of 2-(4-chlorophenoxy)benzylamine (AMR01076, 100 mg, 0.428 mmol) and 1-isobutyrylpiperidin-4-one (78.4 mg, 0.428 mmol) in DCE (5 mL) was treated with NaBH(OAc)3 (127 mg, 0.60 mmol) and acetic acid (26 mg, 0.428 mmol). The mixture was stirred at room temperature under a N2 atmosphere until TLC showed that the reactants were consumed (30 min). Then, it was quenched with saturated NaHCO3 solution, the aqueous layer was washed with DCM (2×20 mL), and the combined organic layers were dried (MgSO4), filtered and evaporated to dryness. Column chromatography on silica gel of the crude product using DCM to DCM/MeOH 95:5 gradient as eluent gave 1-{4-[2-(4-chlorophenoxy)benzylamino]piperidin-1-yl}-2-methylpropan-1-one (129 mg, 78%) as a colorless oil. Rf: 0.4 (DCM/MeOH 9:1) LC/MS (APCI) tr=5.18 min, m/z 389.48 (36), 387.46 (M++H, 100). HPLC tr=3.65 min 97.72%) 1H NMR (270 MHz, CDCl3) δ 1.079 (3H, d, J=6.7 Hz, CH3), δ 1.082 (3H, d, J=6.7 Hz, CH3), 1.23 (2H, m, CH2), 1.45 (br s, NH), 1.83 (2H, m, CH2), 2.70 (2H, m, H2), 2.77 (1H, hept, J=6.7 Hz, CHMe2), 3.01 (1H, m, CHNH), 3.80 (2H, m, CH2), 3.83 (1H, m, ½CH2), 4.41 (1H, br d, J=13.4 Hz, ½CH2), 6.84 (2H, AA′BB′, ArH), 6.87 (1H, m, ArH), 7.12 (1H, td, ArH), 7.24 (1H, m, ArH), 7.25 (2H, AA′BB′, ArH) and 7.39 (1H, dd, J=7.4, 1.7 Hz, ArH). 13C NMR (270 MHz, CDCl3) δ 19.46, 19.65 (CH2), 30.13 (CH), 32.39, 33.30, 40.43, 43.95, 45.67 (CH2), 53.97 (CH), 118.94, 119.61, 124.54, 127.96, 128.72, 129.84, 130.58, 131.80, 154.35, 156.37 (ArC), and 175.30 (C═O).

reactant | 2-(4-chlorophenoxy)benzylamine | 0.428 mmol, 100 mg | ClC1=CC=C(OC2=C(CN)C=CC=C2)C=C1 | C13H12ClNO
reactant | 1-isobutyrylpiperidin-4-one | 0.428 mmol, 78.4 mg | C(C(C)C)(=O)N1CCC(CC1)=O | C9H15NO2
reactant | NaBH(OAc)3 | 0.60 mmol, 127 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.428 mmol, 26 mg | C(C)(=O)O | C2H4O2
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | 1-{4-[2-(4-chlorophenoxy)benzylamino]piperidin-1-yl}-2-methylpropan-1-one | 129 mg, 78% | ClC1=CC=C(OC2=C(CNC3CCN(CC3)C(C(C)C)=O)C=CC=C2)C=C1 | C22H27ClN2O2
